US08304036B2
1.50 g (4.77 mmol) of 2-(4-ethoxy-2,3-difluorophenyl)-5-propenyltellurophene are hydrogenated in 15 ml of THF, in the presence of Pd/C (5% of Pd) at atmospheric pressure and RT. The reaction soln. is filtered and concentrated to dryness, and the crude product is purified by column chromatography (SiO2, n-heptane:toluene=3:1). The further purification is carried out by recrystallisation from n-heptane. 2-(4-Ethoxy-2,3-difluorophenyl)-5-propyltellurophene is obtained as a colourless solid (m.p. 76° C.).

reactant | 2-(4-ethoxy-2,3-difluorophenyl)-5-propenyltellurophene | 4.77 mmol, 1.50 g | C(C)OC1=C(C(=C(C=C1)C=1[Te]C(=CC1)C=CC)F)F | C15H14F2OTe
solvent | THF | 15 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
product | 2-(4-Ethoxy-2,3-difluorophenyl)-5-propyltellurophene | C(C)OC1=C(C(=C(C=C1)C=1[Te]C(=CC1)CCC)F)F | C15H16F2OTe
